US06713474B2
A mixture of trans-5-(4-chloro-7-(4-(4-methylpiperazino)cyclohexyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-2-phenoxybenzonitrile (150 mg) in 1,4-dioxane (25 mL) and 30% aqueous ammonium hydroxide (25 mL) was heated at 120° C. in a sealed tube for 18 hours then cooled and evaporated under reduced pressure. The residue was purified by preparative RP-HPLC to give 5-{4-amino-7-[4-(4-methylpiperazino)cyclohexyl]-7H-pyrrolo[2,3-d]pyrimidin-5-yl}-2-phenoxybenzonitrile bisacetate: 1H NMR (DMSO-d6, 400 MHz) δ 8.14(s, 1H), 7.91(s, 1H), 7.70(d, 1H), 7.55(s, 1H), 7.48(t, 2H), 7.27(t, 1H), 7.20(d, 2H), 7.06(d, 1H), 6.27(bs, 2H), 4.55 (m, 1H), 2.53 m, 4H), 2.36(m, 5H), 2.17 (s, 3H), 2.0(m, 6H), 1.96(s, 6H); MS MH+508.3; RP-HPLC (Hypersil HS, 5 μm, 100 A, 4.6×250 mm; 25%-100% acetonitrile—0.05 M ammonium acetate over 10 min, 1 ml/min) tr 7.27 min.

reactant | trans-5-(4-chloro-7-(4-(4-methylpiperazino)cyclohexyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)-2-phenoxybenzonitrile | 150 mg | ClC=1C2=C(N=CN1)N(C=C2C=2C=CC(=C(C#N)C2)OC2=CC=CC=C2)[C@@H]2CC[C@H](CC2)N2CCN(CC2)C | C30H31ClN6O
reactant | ammonium hydroxide | 25 mL | [OH-].[NH4+]
solvent | 1,4-dioxane | 25 mL | O1CCOCC1 | C4H8O2
product | 5-{4-amino-7-[4-(4-methylpiperazino)cyclohexyl]-7H-pyrrolo[2,3-d]pyrimidin-5-yl}-2-phenoxybenzonitrile bisacetate | C(C)(=O)O.C(C)(=O)O.NC=1C2=C(N=CN1)N(C=C2C=2C=CC(=C(C#N)C2)OC2=CC=CC=C2)C2CCC(CC2)N2CCN(CC2)C | InChI=1S/C30H33N7O.2C2H4O2/c1-35-13-15-36(16-14-35)23-8-10-24(11-9-23)37-19-26(28-29(32)33-20-34-30(28)37)21-7-12-27(22(17-21)18-31)38-25-5-3-2-4-6-25;2*1-2(3)4/h2-7,12,17,19-20,23-24H,8-11,13-16H2,1H3,(H2,32,33,34);2*1H3,(H,3,4)
